US07087599B2
A solution of 4-bromo-9a-butyl-8-chloro-6-fluoro-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one (31 mg, 0.077 mmol) in anhydrous dichloromethane (0.5 mL) was cooled in a dry ice-acetone bath (−78° C.) and the solution treated with 1M boron tribromide in dichloromethane (0.231 mL, 0.231 mmol). The cooling bath was removed and the mixture was stirred at room temperature for one hour. The mixture was partitioned between EtOAc (20 mL) and water (20 mL) containing 2N HCl (2 mL). The organic phase was washed with brine (10 mL), dried over MgSO4, filtered, and evaporated under vacuum. The residue was purified by preparative layer chromatography on a 0.05×20×20 cm silica gel GF plate, developing with 10% EtOAc in CHCl2. The product band was eluted with EtOAc, the eluent evaporated under vacuum, and the residue lyophilized from benzene plus a few drops of EtOH to afford 4-bromo-9a-butyl-8-chloro-6-fluoro-7-hydroxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one as an amorphous solid.

reactant | 4-bromo-9a-butyl-8-chloro-6-fluoro-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.077 mmol, 31 mg | BrC=1C(CCC2(CC3=C(C(=C(C=C3C12)F)OC)Cl)CCCC)=O | C18H19BrClFO2
reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.231 mmol, 0.231 mL | ClCCl | CH2Cl2
product | 4-bromo-9a-butyl-8-chloro-6-fluoro-7-hydroxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | BrC=1C(CCC2(CC3=C(C(=C(C=C3C12)F)O)Cl)CCCC)=O | C17H17BrClFO2
